US04129700
1,3-Dimethyl-3-(ethoxycarbonylperoxy)butyl ethyl carbonate (C-II)
To a solution of 24.4 g. (0.0786 mole) of (86.4%) 1,3-dimethyl-3(ethoxycarbonylperoxy)butyl chloroformate in 100 ml of diethyl ether, cooled at 10°±1° C was added a solution of 4.6 g (0.1 mole) of ethanol and 7.9 g. (0.1 mole) of pyridine in 25 ml of diethyl ether over a period of 20 minutes.

reactant | 1,3-dimethyl-3(ethoxycarbonylperoxy)butyl chloroformate | 0.0786 mole | ClC(=O)OC(CC(C)(OOC(=O)OCC)C)C | C10H17ClO6
reactant | ethanol | 0.1 mole, 4.6 g | C(C)O | C2H6O
reactant | pyridine | 0.1 mole | N1=CC=CC=C1 | C5H5N
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 25 ml | C(C)OCC | C4H10O
product | 1,3-Dimethyl-3-(ethoxycarbonylperoxy)butyl ethyl carbonate | C(OC(CC(C)(OOC(=O)OCC)C)C)(OCC)=O | C12H22O7
